// Generated for: spectre
// Generated on: May 27 22:31:16 2015
// Design library name: 16nm_Tests
// Design cell name: MCsetup_Test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters time2=5n vdd=.500
include "/root/Desktop/Cadence/ncsu-FreePDK15/hspice_16nm_hp.include"

// Library name: 16nm
// Cell name: inv_1x
// View name: schematic
subckt inv_1x A Y
    M0 (Y A 0 0) nfet w=60n l=20n nfin=1 nf=1 m=1
    M1 (Y A vdd! vdd!) pfet w=100n l=20n nfin=1 nf=1 m=1
ends inv_1x
// End of subcircuit definition.

// Library name: 16nm_Tests
// Cell name: MCsetup_Test
// View name: schematic
I0 (in Y) inv_1x
V1 (in 0) vsource type=pwl mag=0 phase=0 wave=[ 0 0 time2 vdd ]
V0 (vdd! 0) vsource type=dc dc=vdd
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=30.0 \
    tnom=27 multithread=on scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=12n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save V0:p Y 
saveOptions options save=allpub
